US09359352B2
Synthesis of 6-chloropyrido[3,2-b]pyrazin-3(4H)-one (E-27)
To a mixture of 6-chloro-1,2-dihydropyrido[2,3-b]pyrazin-3(4H)-one (E-26) (3.68 g, 20 mmol, 1.0 eq) in 1,4-dioxane (80 mL), manganese dioxide (19.4 g, 223 mmol, 11.1 eq) was added. The resulting mixture was stirred at reflux for 2 h then cooled to RT, filtered, the cake was washed with ethyl acetate and methanol. The combined filtrates were concentrated in vacuo to afford the desired product 6-chloropyrido[3,2-b]pyrazin-3(4H)-one (E-27) (3 g, 82% yield) as a pale solid. 1H NMR (300 MHz, DMSO-d6) δ: 13.03 (bs, 1H), 8.19 (m, 2H), 7.38 (d, J=8.4 Hz, 1H); ESI-MS m/z: 180.00 [M−H]−.

reactant | 6-chloro-1,2-dihydropyrido[2,3-b]pyrazin-3(4H)-one | 20 mmol, 3.68 g, 1.0 eq | ClC=1C=CC2=C(NC(CN2)=O)N1 | C7H6ClN3O
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 223 mmol, 19.4 g, 11.1 eq | [O-2].[O-2].[Mn+4]
product | 6-chloropyrido[3,2-b]pyrazin-3(4H)-one | 3 g, 82% yield | ClC=1C=CC=2N=CC(NC2N1)=O | C7H4ClN3O
